US05346920
To a solution of 0.91 g of 2-chloro-5-phenoxyphenol in 20 ml of N,N-dimethylformamide, there were added 0.69 g of ethyl 2-chloroethylcarbamate and 1.14 g of potassium carbonate with stirring, and the resultant mixture was stirred at 50° C. for 7 hours. The reaction mixture was poured into 100 g of ice-water and extracted twice with 100 ml of ethyl acetate. The extracts were combined together, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 0.14 g of ethyl 2-(2-chloro-5-phenoxyphenoxy)ethylcarbamate. Yield: 10%. nD22 : 1.5608.

reactant | 2-chloro-5-phenoxyphenol | 0.91 g | ClC1=C(C=C(C=C1)OC1=CC=CC=C1)O | C12H9ClO2
reactant | ethyl 2-chloroethylcarbamate | 0.69 g | ClCCNC(OCC)=O | C5H10ClNO2
reactant | potassium carbonate | 1.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-chloro-5-phenoxyphenoxy)ethylcarbamate | 0.14 g, Yield: 10% | ClC1=C(OCCNC(OCC)=O)C=C(C=C1)OC1=CC=CC=C1 | C17H18ClNO4
